data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O:21]S(=O)(=O)O.C1=CC=C(C=C1)C(CC(=O)O)[NH2:10].CCCO>>[H:20][NH2+:10]C(CC(=O)O)C1=CC=CC=C1.OS(=O)(=O)[O-:21].CCCO 10=20;20,21=21
[H:20][CH2:21][CH:22]=[O:23].[OH-:10]>>[H:20][OH:10].[CH2:21]=[CH:22][O-:23] 10=20;22,23=23;20,21=21,22
CCC1([C:20]([Br+:21]1)(C)CC)C.[Br-:10]>>CCC(C)([C:20](C)(CC)[Br:10])[Br:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.C1C(C[NH2+]C1C(=[O:10])O)O.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1.C1=CC=C(C=C1)CO>>[H:20][O+:10]=C(C1CC(C[NH2+]1)O)O.OS(=O)(=O)[O-:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1.C1=CC=C(C=C1)CO 10=20;20,21=21
C[S+:20](C)Br.[Br-:10]>>C[S:20](C)(Br)[Br:10] 10=20,
[H:20][N+:21]1=CC=CC=C1.CC1(CCC(CC1)(O)[O:10]CCO)O.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.O>>[H:20][O+:10](CCO)C1(CCC(CC1)(C)O)O.C1=CC=[N:21]C=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.O 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.C=CC[O-:10]>>[H:20][O:10]CC=C.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][CH:21]([C:22](=[NH2+:23])C)C(=O)OCC.[NH3:10].CCO.CCOC(=O)C(=CC1=C(ON=C1C)CCC2=CC(=CC=C2)Br)C(=O)C.O>>[H:20][NH3+:10].CCOC(=O)[CH:21]=[C:22](C)[NH2:23].CCO.CCOC(=O)C(=CC1=C(ON=C1C)CCC2=CC(=CC=C2)Br)C(=O)C.O 10=20;22,23=23;20,21=21,22
CC[OH:10].CC(C)[C+:20](C)C>>CC[OH+:10][C:20](C)(C)C(C)C 10=20,
[H:20][C:21]1(C2=C(C=CC=C2)C=C[C+:22]1OC)C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[C:22](C=CC2=C1C=CC=C2)OC 10=20;20,21=21,22
[H:20][OH2+:21].CC(C)(CC1=NC=CC=C1)[O-:10]>>[H:20][O:10]C(C)(C)CC1=NC=CC=C1.[OH2:21] 10=20;20,21=21
C1CO[C:20](=[NH2+:21])O1.[OH2:10]>>C1CO[C:20](O1)([NH2:21])[OH2+:10] 10=20;20,21=21
CC[O:21][C:20](CCC(=O)N(C)C)([O-:10])OC>>CC[O-:21].CN(C)C(=O)CC[C:20](=[O:10])OC 10=20;20,21=21
[H:10][CH2:11][CH:12](C)[Mg-:13]([O+:21]=[C:20](CCC)C(C)C)Cl>>[H:10][C:20](CCC)(C(C)C)[O:21][Mg:13]Cl.C[CH:12]=[CH2:11] 10,11=10,20;20,21=21;12,13=11,12
CCOC(=O)C(C(C(=O)OCC)[C:20](C)([NH2:10])[OH:21])C(=O)C.CO.N>>CCOC(=O)C(C(C(=O)C)C(=O)OCC)[C:20](=[NH2+:10])C.[OH-:21].CO.N 10=20;20,21=21
[CH:20](O)([OH:10])[Br:21].[Cl-]>>[CH:20](=[OH+:10])O.[Br-:21].[Cl-] 10=20;20,21=21
C[C+:20]=O.CC(=O)C1=CC2=C([CH:10]=[CH:11]C=C2)C=C1>>C[C:20](=O)[CH:10]1[CH+:11]C=CC2=C1C=CC(=C2)C(=O)C 10,11=10,20
C1=CC2=C([CH:10]=[C:11](N=C2C=C1)[OH:12])O.[N+:20](=O)=[O:21]>>C1=CC2=C([CH:10]([C:11](=[OH+:12])N=C2C=C1)[N+:20](=O)[O-:21])O 10,11=10,20;20,21=21;12=11
CCCCCC1=C[C:10](=CC=C1)[C:11](C)([CH:20](C2=CC=C(C=C2)CC)[OH2+:21])[OH:12].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-]>>CCCCCC1=C[C:10](=CC=C1)[CH:20](C2=CC=C(C=C2)CC)[C:11](=[OH+:12])C.[OH2:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
C1CCC([CH:20](C1)[Br:21])[Br:10]>>C1CCC2[CH:20](C1)[Br+:10]2.[Br-:21] 10=20;20,21=21
CCCC[Al:20](CC(C)C)CC(C)C.CC(C=CC1=CC=CC=C1)[O-:10].[Li+]>>CCCC[Al-:20](CC(C)C)(CC(C)C)[O:10]C(C)C=CC1=CC=CC=C1.[Li+] 10=20,
CCOC(=O)C(CC(=O)C1=CC=CC=C1)[C:20](C)([NH2:10])[OH2+:21].CC(=O)[O-]>>CCOC(=O)C(CC(=O)C1=CC=CC=C1)[C:20](=[NH2+:10])C.[OH2:21].CC(=O)[O-] 10=20;20,21=21
[H:20][O+:21](C(C)CC)C(C)([O-])OC(=O)C.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CCC(C)[O:21]C(C)([O-])OC(=O)C 10=20;20,21=21
[H:20][N:21]1C(=O)CCC1=O.CCOP(C)(C)(C)N(C(=[O:10])OC)NC(=O)OC>>[H:20][O+:10]=C(N(NC(=O)OC)P(C)(C)(C)OCC)OC.C1CC(=O)[N-:21]C1=O 10=20;20,21=21
[Li+:20].CCCC[Br-:11][C:10]1=C(N=CC=C1)Cl>>[Li:20][C:10]1=C(N=CC=C1)Cl.CCCC[Br:11] 10,11=10,20
CC(=O)CC[C:20](C)([NH:10]CCO)[OH2+:21].CC(=O)[O-]>>C[C:20](=[NH+:10]CCO)CCC(=O)C.[OH2:21].CC(=O)[O-] 10=20;20,21=21
[H:20][O:21]C(=O)C1=CC=CC=C1.CCOC(=O)N[N-:10]C(=O)OCC.CCOC(=O)C(C)[O+]=P(C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3>>[H:20][N:10](C(=O)OCC)NC(=O)OCC.C1=CC=C(C=C1)C(=O)[O-:21].CCOC(=O)C(C)[O+]=P(C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3 10=20;20,21=21
[H:20][NH+:21](C1=NC(=CC=C1)Br)C(C)(CCC(=O)C)O.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CC(=O)CCC(C)([NH:21]C1=NC(=CC=C1)Br)O 10=20;20,21=21
[H:20][OH+:21]C1CCC(OC(CC1)C)C.C(S(=O)(=O)[O-:10])Cl>>[H:20][O:10]S(=O)(=O)CCl.CC1CCC(CCC(O1)C)[OH:21] 10=20;20,21=21
[H:20][NH2+:21]CCO.CC(C1=C(C=CC=C1)O)(NCCO)[O-:10]>>[H:20][O:10]C(C)(C1=C(C=CC=C1)O)NCCO.C(CO)[NH2:21] 10=20;20,21=21
CCCC(=[O+:11][Na:10])CCC.[BH4-]>>CCCC(=[O:11])CCC.[Na+:10].[BH4-] 10,11=11
C[C:20](=[O+:21]CCC[O:10][Si](C)(C)C)C>>C[C:20]1([O:21]CCC[O+:10]1[Si](C)(C)C)C 10=20;20,21=21
[B-:10]([O+](C)C1=C2C3=C(CC4C5(C3(CCN4CC=C)C(O2)C(=O)CC5)O)C=C1)(Br)(Br)[Br:11]>>[B:10]([O+](C)C1=C2C3=C(CC4C5(C3(CCN4CC=C)C(O2)C(=O)CC5)O)C=C1)(Br)Br.[Br-:11] 10,11=11
C1=CC2=CC=C(C=C2[CH:10]=[CH:11]1)[N+](=O)[O-].O[S+:20](=O)=O>>C1=CC2=CC=C(C=C2[CH:10]([CH+:11]1)[S:20](=O)(=O)O)[N+](=O)[O-] 10,11=10,20
[CH:11]1=[CH:10]OC(=C1)[N+](=O)[O-].[Br:20][Br:21]>>C1=C(O[CH:10]([CH+:11]1)[Br:20])[N+](=O)[O-].[Br-:21] 10,11=10,20;20,21=21
C1=CC2=CC=C(C=C2[CH:10]=[CH:11]1)C#N.[Br:20][Br:21]>>C1=CC2=CC=C(C=C2[CH:10]([CH+:11]1)[Br:20])C#N.[Br-:21] 10,11=10,20;20,21=21
CC1=CC=C(C=C1)S(=O)(=O)OC2=CC=C(C=C2)C(CC=C)[O:12][CH:11](CCC3=CC=C(C=C3)OCC4=CC=CC=C4)[O:10][C:20](=[O+:21][Sn-](Br)(Br)(Br)Br)C>>CC1=CC=C(C=C1)S(=O)(=O)OC2=CC=C(C=C2)C(CC=C)[O+:12]=[CH:11]CCC3=CC=C(C=C3)OCC4=CC=CC=C4.C[C:20](=[O:10])[O:21][Sn-](Br)(Br)(Br)Br 10,11=10,20;20,21=21;12=11
